US07547679B2
a) 3-[2-(tert-butoxycarbonylmethyl-amino)-ethylamino]-propionic acid tert-butyl ester
To the solution of (2-amino-ethylamino)-acetic acid tert-butyl ester (1.0 mL, 6.32 mmol) in i-PrOH (50 mL) was added acrylic acid tert-butyl ester (309.1 μL, 2.11 mmol). The suspension was heated for 48 hours at 60° C. The solvent was evaporated and product was purificated by column chromatography (DCM-MeOH—NH3=90:3:0.5) yielded the title product as colorless oil (0.45 mg).

reactant | (2-amino-ethylamino)-acetic acid tert-butyl ester | 6.32 mmol, 1.0 mL | C(C)(C)(C)OC(CNCCN)=O | C8H18N2O2
reactant | acrylic acid tert-butyl ester | 2.11 mmol, 309.1 μL | C(C)(C)(C)OC(C=C)=O | C7H12O2
solvent | i-PrOH | 50 mL | CC(C)O | C3H8O
product | 3-[2-(tert-butoxycarbonylmethyl-amino)-ethylamino]-propionic acid tert-butyl ester | 0.45 mg | C(C)(C)(C)OC(CCNCCNCC(=O)OC(C)(C)C)=O | C15H30N2O4
